US07547691B2
2-[5-Chloro-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid amide
A stirred mixture of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid amide (305 mg, 0.941 mmol), 4-(2-aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester (430 mg, 1.88 mmol) and diisopropylethylamine (0.492 mL, 2.82 mmol) in 1,4-dioxane (6 mL) is heated at 97° C. under a nitrogen atmosphere for 7 hours. At room temperature the mixture is concentrated in vacuo to give a crude solid and it is subjected to a subsequent deprotection reaction. The solid is suspended in dichloromethane (12 mL), followed by the successive addition of triethylsilane (0.9 mL) and TFA (4 mL). The resultant yellow solution is stirred for 2 hours. After concentration and subsequent chromatography on silica gel, eluting with 2.0 M NH3/MeOH in dichloromethane 3-10%, the fractions containing the desired product are collected and concentrated to give a solid. The solid is dissolved in MeOH (20 mL) and dichloromethane (20 mL) with stirring and the solution is treated in portions with 0.5 N LiOH (14 mL) to form a suspension. Methanol and dichloromethane are concentrated at 45° C. to give a yellow suspension. After filtration and drying the title compound is obtained as a yellow solid (0.200 g, 51% yield). ES+(m/z) 416 (35Cl) and 418 (37Cl) [M+H].

reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid amide | 0.941 mmol, 305 mg | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(=O)N)Cl | C13H7Cl2N3OS
reactant | 4-(2-aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.88 mmol, 430 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | diisopropylethylamine | 2.82 mmol, 0.492 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triethylsilane | 0.9 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | LiOH | 0.5 N, 14 mL | [Li+].[OH-]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | MeOH | 20 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-[5-Chloro-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid amide | 0.200 g, 51% yield | ClC=1C(=NC(=NC1)NCCC1CCNCC1)C1=CC2=C(S1)C=CC=C2C(=O)N | C20H22ClN5OS
